US04462943
A solution of 10 grams of 1-(L-alanyl)-4-(S)-(phenylmethyl)-L-proline, phenylmethyl ester (liberated from its hydrochloride salt) in 150 ml. of absolute alcohol is hydrogenated in the presence of 1.5 grams of 10% palladium on carbon until the uptake of hydrogen ceases. The mixture is filtered to remove the catalyst and the filtrate is concentrated under reduced pressure to yield the desired 1-(L-alanyl)-4-(S)-(phenylmethyl)-L-proline.

reactant | 1-(L-alanyl)-4-(S)-(phenylmethyl)-L-proline, phenylmethyl ester | 10 grams | N[C@@H](C)C(=O)N1[C@H](C(=O)OCC2=CC=CC=C2)C[C@@H](C1)CC1=CC=CC=C1 | C22H26N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.5 grams | [Pd] | Pd
product | 1-(L-alanyl)-4-(S)-(phenylmethyl)-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)C[C@@H](C1)CC1=CC=CC=C1 | C15H20N2O3
